US04898943
In 100 ml of ethanol was suspended 9.59 g of 7-chloro-2-(2-cyclohexylethyl)-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one, and 7 ml of concentrated aqueous ammonia was added thereto at room temperature while stirring. The stirring was continued for 5.5 hours. The precipitate formed was collected by filtration and washed successively with ethanol and diethyl ether to obtain 7.05 g of 7-amino-2-(2-cyclohexylethyl)-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one as a pale yellow crystal.

reactant | 7-chloro-2-(2-cyclohexylethyl)-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one | 9.59 g | ClC=1N=C2N(C(C1[N+](=O)[O-])=O)N=C(S2)CCC2CCCCC2 | C13H15ClN4O3S
reactant | ammonia | 7 ml | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-amino-2-(2-cyclohexylethyl)-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one | 7.05 g | NC=1N=C2N(C(C1[N+](=O)[O-])=O)N=C(S2)CCC2CCCCC2 | C13H17N5O3S
